US07507753B2
3′-acetyl-1,1′-biphenyl-2-carboxylic acid ethyl ester
To a suspension of ethyl 2-bromobenzoic acid (10.0 g) and 3-acetylphenylboric acid (7.87 g) in dimethoxyethane (200 ml) was added 2 N sodium carbonate solution (50 ml), and the mixture was deaerated and argon-substituted. To this mixture was added tetrakis(triphenylphosphine) palladium (0) (5.04 g), and the mixture was heated to reflux for 15 hours. The obtained reaction mixture was subjected to cooling, and distributed between ethyl acetate (400 ml) and saturated sodium bicarbonate solution (400 ml). The aqueous layer was further extracted with ethyl acetate (200 ml), and the combined organic layer was washed with saturated brine, dried with magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography to give the title compound as a yellow oil (11.08 g, 95%).

reactant | ethyl 2-bromobenzoic acid | 10.0 g | C(C)C=1C(=C(C(=O)O)C=CC1)Br | C9H9BrO2
reactant | 3-acetylphenylboric acid | 7.87 g | C(C)(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO4
reactant | sodium carbonate | 2 N, 50 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | 400 ml | C([O-])(O)=O.[Na+]
reactant | dimethoxyethane | 200 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 5.04 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 3′-acetyl-1,1′-biphenyl-2-carboxylic acid ethyl ester | 11.08 g, 95% | C(C)OC(=O)C=1C(=CC=CC1)C1=CC(=CC=C1)C(C)=O | C17H16O3
